* SPDX-License-Identifier: Apache-2.0
* Calibrated dual-edge sense/write pulse generator for the regenerative RX.

.subckt cp_inv A Y VDD VSS params: WP=1.2u WN=0.6u MP=1 MN=1
XP Y A VDD VDD pfet_03v3 w={WP} l=0.28u m={MP}
XN Y A VSS VSS nfet_03v3 w={WN} l=0.28u m={MN}
.ends cp_inv

.subckt cp_nand2 A B Y VDD VSS params: WP=1.6u WN=1.2u MP=1 MN=1
XP0 Y A VDD VDD pfet_03v3 w={WP} l=0.28u m={MP}
XP1 Y B VDD VDD pfet_03v3 w={WP} l=0.28u m={MP}
XN0 Y A NS VSS nfet_03v3 w={WN} l=0.28u m={MN}
XN1 NS B VSS VSS nfet_03v3 w={WN} l=0.28u m={MN}
.ends cp_nand2

.subckt cp_nor2 A B Y VDD VSS params: WP=8u WN=8u MP=6 MN=2
XP0 NP A VDD VDD pfet_03v3 w={WP} l=0.28u m={MP}
XP1 Y B NP VDD pfet_03v3 w={WP} l=0.28u m={MP}
XN0 Y A VSS VSS nfet_03v3 w={WN} l=0.28u m={MN}
XN1 Y B VSS VSS nfet_03v3 w={WN} l=0.28u m={MN}
.ends cp_nor2

.subckt cp_delay_unit A Y VDD VSS params: WP=2.2u WN=1.1u
XD0 A DI VDD VSS cp_inv WP={WP} WN={WN}
XD1 DI Y VDD VSS cp_inv WP={WP} WN={WN}
.ends cp_delay_unit

.subckt cp_tap_buffer A Y VDD VSS params: WP0=2u WN0=1u WP1=4u WN1=2u MN2=2
XI0 A B0 VDD VSS cp_inv WP={WP0} WN={WN0}
XI1 B0 B1 VDD VSS cp_inv WP={WP1} WN={WN1}
XI2 B1 B2 VDD VSS cp_inv WP=8u WN=6u MP=3 MN={MN2}
XI3 B2 Y VDD VSS cp_inv WP=8u WN=8u MP=8 MN=4
.ends cp_tap_buffer

.subckt cp_cond_npd D G EN VSS params: WG=0.6u WE=3u M=1
XN0 D G N VSS nfet_03v3 w={WG} l=0.28u m={M}
XN1 N EN VSS VSS nfet_03v3 w={WE} l=0.28u m={M}
.ends cp_cond_npd

.subckt cp_gate_cap A VSS params: W=0.4u
XN VSS A VSS VSS nfet_03v3 w={W} l=0.28u m=1
.ends cp_gate_cap

* Restore each tap before the selector so an analog pass node never has to
* drive four branches plus a threshold-sensitive receiver.  Start and end use
* the same stages; their selected tap spacing, not ratioed thresholds, defines
* pulse width.
.subckt cp_tristate_inv A Y EN ENB VDD VSS params: WP=8u WN=4u M=2
XP0 NP A VDD VDD pfet_03v3 w={WP} l=0.28u m={M}
XP1 Y ENB NP VDD pfet_03v3 w={WP} l=0.28u m={M}
XN0 NN A VSS VSS nfet_03v3 w={WN} l=0.28u m={M}
XN1 Y EN NN VSS nfet_03v3 w={WN} l=0.28u m={M}
.ends cp_tristate_inv

.subckt cp_write_buffer B0 Y VDD VSS
XI1 B0 B1 VDD VSS cp_inv WP=8u WN=4u
XI2 B1 B2 VDD VSS cp_inv WP=8u WN=6u MP=3 MN=2
XI3 B2 Y VDD VSS cp_inv WP=8u WN=8u MP=8 MN=4
.ends cp_write_buffer

.subckt cp_select_prebuffer A Y VDD VSS params: WP0=2u WN0=1u WP1=8u WN1=4u MPP=1 MNN=1
XI0 A B0 VDD VSS cp_inv WP={WP0} WN={WN0}
XI1 B0 Y VDD VSS cp_inv WP={WP1} WN={WN1} MP={MPP} MN={MNN}
.ends cp_select_prebuffer

.subckt cp_tg A Y EN ENB VDD VSS params: W=4u M=2
XN Y EN A VSS nfet_03v3 w={W} l=0.28u m={M}
XP Y ENB A VDD pfet_03v3 w={W} l=0.28u m={M}
.ends cp_tg

* Active-low pulse while the earlier tap A is high and later tap B is low.
.subckt cp_rise_b A B YB VDD VSS
XI B BN VDD VSS cp_inv WP=8u WN=8u MP=2 MN=1
XN A BN YB VDD VSS cp_nand2 WP=8u WN=8u MP=8 MN=6
.ends cp_rise_b

.subckt cp_phase CLK SEL0 SEL1 SEL2 SEL3 VDD VSS
+ SENSE REGEN REGENB WRITE WRITEB
+ params: MID_WP0=2u MID_WN0=1u MID_MPP=1 MID_MNN=1 P08_MPP=4 P08_MNN=3
* Twelve matched non-inverting delay units provide digitally selectable taps.
* Four one-hot profiles select tap triplets retained by PVT screening. The
* transmission gates are part of the simulated circuit, not netlist rewrites.
* interval. Total transport delay remains below one recovered-clock period.
XD01 CLK D01 VDD VSS cp_delay_unit
XD02 D01 D02 VDD VSS cp_delay_unit
XD03 D02 D03 VDD VSS cp_delay_unit
XD04 D03 D04 VDD VSS cp_delay_unit
XD05 D04 D05 VDD VSS cp_delay_unit
XD06 D05 D06 VDD VSS cp_delay_unit
XD07 D06 D07 VDD VSS cp_delay_unit
XD08 D07 D08 VDD VSS cp_delay_unit
XD09 D08 D09 VDD VSS cp_delay_unit
XD10 D09 D10 VDD VSS cp_delay_unit
XD11 D10 D11 VDD VSS cp_delay_unit
* Terminate D11 with the same first-inverter gate load seen by internal taps.
* The unused second half of a full delay unit would only burn switching power.
XD12T D11 D12 VDD VSS cp_inv WP=2.2u WN=1.1u

* Four calibrated profiles select complete sense/start/end triplets. Controls
* are static one-hot during operation and only change while the lane is reset.
XI0 SEL0 SEL0B VDD VSS cp_inv WP=4u WN=2u
XI1 SEL1 SEL1B VDD VSS cp_inv WP=4u WN=2u
XI2 SEL2 SEL2B VDD VSS cp_inv WP=4u WN=2u
XI3 SEL3 SEL3B VDD VSS cp_inv WP=4u WN=2u
XPC CLK PCLK VDD VSS cp_select_prebuffer
XP02 D02 P02 VDD VSS cp_select_prebuffer WP0={MID_WP0} WN0={MID_WN0} MPP={MID_MPP} MNN={MID_MNN}
XP08 D08 P08 VDD VSS cp_select_prebuffer WP0={MID_WP0} WN0={MID_WN0} MPP={P08_MPP} MNN={P08_MNN}
XP09L D09 VSS cp_gate_cap W=3u
XP10 D10 P10 VDD VSS cp_select_prebuffer
XP01L D01 VSS cp_gate_cap W=3u
XP05L D05 VSS cp_gate_cap W=3u
XP07L D07 VSS cp_gate_cap W=3u
XSCB SEL1 SEL3 STAP2B VDD VSS cp_nor2 WP=4u WN=4u MP=2 MN=1
XSCI STAP2B STAP2 VDD VSS cp_inv WP=4u WN=2u
XLCB SEL0 SEL3 LATEB VDD VSS cp_nor2 WP=4u WN=4u MP=2 MN=1
XLCI LATEB LATE VDD VSS cp_inv WP=4u WN=2u
XMCB SEL1 SEL2 MIDB VDD VSS cp_nor2 WP=4u WN=4u MP=2 MN=1
XMCI MIDB MID VDD VSS cp_inv WP=4u WN=2u
XSM0 PCLK SSEL STAP2B STAP2 VDD VSS cp_tg W=3u
XSM1 P02 SSEL STAP2 STAP2B VDD VSS cp_tg W=6u
XWM1 P08 WSTART_SEL MID MIDB VDD VSS cp_tristate_inv
XWM3 P10 WSTART_SEL LATE LATEB VDD VSS cp_tristate_inv
XPMD P08 P09W VDD VSS cp_delay_unit WP=7u WN=3.5u
XWE1 P09W WEND_SEL MID MIDB VDD VSS cp_tristate_inv
XPLD P10 P10D VDD VSS cp_delay_unit WP=12u WN=8u
XWE3 P10D WEND_SEL LATE LATEB VDD VSS cp_tristate_inv

* SENSE = CLK OR the selected sense tap. WRITE is high between the selected
* start and end tap. Matched tap buffers keep the large logic gates off the
* transport-delay nodes. The direct path crosses one enabled TG plus one quiet
* dummy TG, matching the two-branch sense selector's delay and diffusion load.
* These buffers preserve the intentionally short inactive and write intervals
* under the large regenerative-gate capacitances.
XCM0 PCLK CTSEL VDD VSS VDD VSS cp_tg
XCM1 VSS CTSEL VSS VDD VDD VSS cp_tg
XCT CTSEL CT VDD VSS cp_tap_buffer
XST SSEL ST VDD VSS cp_tap_buffer WP0=4u WN0=2u WP1=8u WN1=4u
XWST WSTART_SEL WST VDD VSS cp_write_buffer
XWET WEND_SEL WET VDD VSS cp_write_buffer
XCTD CT CTD VDD VSS VDD VSS cp_tg W=8u M=4
XSTD ST STD VDD VSS VDD VSS cp_tg W=8u M=4
XSN CTD STD SN0 VDD VSS cp_nor2
XWN WST WET WCOREB VDD VSS cp_rise_b
XWPD0 WCOREB WPD0 VDD VSS cp_inv WP=8u WN=8u MP=1 MN=1
XWPD1 WPD0 WCOREBD VDD VSS cp_inv WP=7.5u WN=7.5u MP=3 MN=3
XSB0 SN0 SB0 VDD VSS cp_inv WP=8u WN=8u MP=2 MN=1
XSB1 SB0 SB1 VDD VSS cp_inv WP=8u WN=8u MP=8 MN=4
XSB2 SB1 SENSE VDD VSS cp_inv WP=8u WN=8u MP=10 MN=5
XRB0 SN0 RB0 VDD VSS cp_inv WP=8u WN=4u
XRB1 RB0 RB1 VDD VSS cp_inv WP=8u WN=6u MP=3 MN=2
XRB2 RB1 REGEN VDD VSS cp_inv WP=8u WN=8u MP=3 MN=3
XRBI SN0 RBT VDD VSS cp_inv WP=8u WN=4u
XRBB RBT REGENB VDD VSS cp_inv WP=8u WN=8u MP=3 MN=3
XWB0 WCOREBD WB0 VDD VSS cp_inv WP=8u WN=8u MP=4 MN=2
XWB1 WB0 WB1 VDD VSS cp_inv WP=8u WN=8u MP=8 MN=6
XWB2 WB1 WRITE VDD VSS cp_inv WP=8u WN=8u MP=23 MN=14
XWBI WCOREBD WBT VDD VSS cp_inv WP=8u WN=8u
XWBB WBT WRITEB VDD VSS cp_inv WP=8u WN=8u MP=18 MN=22
.ends cp_phase

.subckt clock_pulse_generator CLKP CLKN SEL0 SEL1 SEL2 SEL3 VDD VSS
+ E_SENSE E_REGEN E_REGENB E_WRITE E_WRITEB
+ O_SENSE O_REGEN O_REGENB O_WRITE O_WRITEB
XE CLKP SEL0 SEL1 SEL2 SEL3 VDD VSS
+ E_SENSE E_REGEN E_REGENB E_WRITE E_WRITEB cp_phase
XO CLKN SEL0 SEL1 SEL2 SEL3 VDD VSS
+ O_SENSE O_REGEN O_REGENB O_WRITE O_WRITEB cp_phase
+ MID_WP0=4u MID_WN0=2u MID_MPP=2 MID_MNN=3 P08_MPP=4 P08_MNN=5
.ends clock_pulse_generator
